US06825200B1
(2E)-3-(4-Chlorophenyl)-N-[(1S)-2-oxo-2-[[2-oxo-2-[4-(3,3,3-trifluoropropyl)-1-piperazinyl]ethyl]amino]-1-(2-pyridylmethyl)ethyl]-2-propenamide
To a mixture of [[(2S)-2-[[(2E)-3-(4-chlorophenyl)-2propenoyl]amino]-3-(2-pyridyl)propanoyl]amino]acetic acid (38.8 g), 1-(3,3,3-trifluoropropyl)piperazine dihydrochloride (25.5 g), 1-hydroxybenzotriazole (14.9 g) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (21.1 g) in N,N-dimethylformamide (250 ml) was added dropwise N,N-diisopropylethylamine (38.3 ml) at 10° C. over 50 minutes. The mixture was warmed to room temperature and stirred for 2 hours. The reaction mixture was poured into ice-cold saturated aqueous sodium hydrogencarbonate solution (750 ml). The mixture was extracted three times with ethyl acetate (total 2500 ml) and washed successively with water (500 ml×3) and brine (200 ml). The organic layer was dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography (eluent; 12% methanol in ethyl acetate) to give the title compound (37.0 g) as a white amorphous solid, which was recrystallized from ethyl acetate.

reactant | [[(2S)-2-[[(2E)-3-(4-chlorophenyl)-2propenoyl]amino]-3-(2-pyridyl)propanoyl]amino]acetic acid | 38.8 g | ClC1=CC=C(C=C1)/C=C/C(=O)N[C@H](C(=O)NCC(=O)O)CC1=NC=CC=C1 | C19H18ClN3O4
reactant | 1-(3,3,3-trifluoropropyl)piperazine dihydrochloride | 25.5 g | Cl.Cl.FC(CCN1CCNCC1)(F)F
reactant | 1-hydroxybenzotriazole | 14.9 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 21.1 g | Cl.CN(CCCN=C=NCC)C
reactant | N,N-diisopropylethylamine | 38.3 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | (2E)-3-(4-Chlorophenyl)-N-[(1S)-2-oxo-2-[[2-oxo-2-[4-(3,3,3-trifluoropropyl)-1-piperazinyl]ethyl]amino]-1-(2-pyridylmethyl)ethyl]-2-propenamide | 37.0 g | ClC1=CC=C(C=C1)/C=C/C(=O)N[C@H](C(NCC(N1CCN(CC1)CCC(F)(F)F)=O)=O)CC1=NC=CC=C1 | C26H29ClF3N5O3
